US08937091B2
2,4-dimethyl-1-acryloylbenzene 8239
Metaxylene (128 mg), acryloyl chloride (154 mg), and aluminium chloride (160 mg) were reacted in dichloromethane (1.5 mL) at from 0° C. to room temperature for 4 hours. The resultant was treated in the same manner as described in Example 1 to obtain the title compound (31 mg).

reactant | Metaxylene | 128 mg | C1(=CC(=CC=C1)C)C | C8H10
reactant | acryloyl chloride | 154 mg | C(C=C)(=O)Cl | C3H3ClO
reactant | aluminium chloride | 160 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 2,4-dimethyl-1-acryloylbenzene | 31 mg | CC1=C(C=CC(=C1)C)C(C=C)=O | C11H12O
